US07601716B2
1-(2-Chloro-3,6-difluorobenzyl)-7-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (88 mg) was coupled to 1-Methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine as in General Procedure 4B to give the title compound as a light brown solid (16% yield). M.p.=219° C., LCMS: m/z=471.12 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.36 (3H, s), 2.54 (4H, t, J=5.1 Hz), 3.27 (2H, t, J=4.8 Hz), 3.51 (2H, t, J=4.7 Hz), 3.59 (4H, t, J=5.1 Hz), 4.50 (2H, d, J=1.0 Hz), 5.01 (1H, bs), 6.70 (1H, d, J=8.8 Hz), 7.03 (2H, m), 7.11 (1H, m), 7.61 (1H, dd, J=8.8, 2.5 Hz), 7.64 (1H, d, J=1.8 Hz), 8.35 (1H, d, J=2.3 Hz).

reactant | 1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 88 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C(=CC=C1F)F | C14H11ClF2IN3
reactant | 1-Methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine | CN1CCN(CC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
product | 1-(2-Chloro-3,6-difluorobenzyl)-7-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 16% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=NC(=CC3)N3CCN(CC3)C)C(=CC=C1F)F | C24H25ClF2N6
